US08455488B2
Synthesis of (S)—N-((5-chlorothieno[3,2-b]pyridin-3-yl)methyl)-1,1-diethoxypropan-2-amine (Compound IX-7)
According to the procedure described in the synthesis method of Compound IX-2, (S)-1,1-diethoxypropan-2-amine (Compound XIX-1) 1.98 g (13.4 mmol) was reacted with 5-chlorothieno[3,2-b]pyridine-3-carbaldehyde (Compound XX-1) 1.98 g (10 mmol) and purified on Buch silica gel column chromatography (chloroform:methanol=98:2 to 95:5) to obtain the title compound 996 mg (30%).

reactant | (S)-1,1-diethoxypropan-2-amine | 13.4 mmol, 1.98 g | C(C)OC([C@H](C)N)OCC | C7H17NO2
reactant | 5-chlorothieno[3,2-b]pyridine-3-carbaldehyde | 10 mmol, 1.98 g | ClC1=CC=C2C(=N1)C(=CS2)C=O | C8H4ClNOS
product | (S)—N-((5-chlorothieno[3,2-b]pyridin-3-yl)methyl)-1,1-diethoxypropan-2-amine | 996 mg, 30% | ClC1=CC=C2C(=N1)C(=CS2)CN[C@H](C(OCC)OCC)C | C15H21ClN2O2S
